US06231833B1
(7R,9aS)-7-(5-Fluoroindol-1-yl)methyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
A mixture of 2.20 g (7.67 mmol) of (7R,9aS)-7-(5-fluoroindol-1-yl)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine, 1.02 9 (7.67 mmol) of 2-chloro-5-fluoropyrimidine and 1.95 g (18.4 mmol) of sodium carbonate in 100 mL of water was stirred at 95° C. for 72 h. The mixture was cooled to room temperature, extracted with chloroform (3×), the combined organic phase was washed with brine, dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with 50:50 ethyl acetate:hexane gave 1.17 g (40%) of the title compound. mp (—HCl) 180-182° C. HRMS calc for HRMS calcd for C21H23F2N5: 383.1922, found: 383.1924.

reactant | (7R,9aS)-7-(5-fluoroindol-1-yl)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 7.67 mmol, 2.20 g | FC=1C=C2C=CN(C2=CC1)C[C@@H]1CC[C@@H]2N(CCNC2)C1 | C17H22FN3
reactant | 2-chloro-5-fluoropyrimidine | ClC1=NC=C(C=N1)F | C4H2ClFN2
reactant | sodium carbonate | 18.4 mmol, 1.95 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 mL | O | H2O
product | (7R,9aS)-7-(5-Fluoroindol-1-yl)methyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 1.17 g, 40% | FC=1C=C2C=CN(C2=CC1)C[C@@H]1CC[C@@H]2N(CCN(C2)C2=NC=C(C=N2)F)C1 | C21H23F2N5
